US04569996
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone (1.42 g, 0.005 mol) was dissolved in concentrated hydrochloric acid (10 ml) and 2-methyl-5-formylpyridine (1.35 g, 0.012 mol) was added. The solution was stirred at reflux temperature for 24 hours, cooled, basified with 10N sodium hydroxide to pH 8.5 and the product left to separate as an oil. The aqueous mother liquor was decanted and the oil subjected to medium pressure liquid chromatography (Kieselgel 60, 230-400 mesh) with methanolic ammonia: dichloromethane (10:90) as eluent. The relevant fractions were combined and evaporated under reduced pressure to afford the title compound (0.63 g). Crystallisation from aqueous methanol afforded the title product as a white crystalline solid, m.p. 82° C.; δ(CDCl3) 1.6 (4H, m), 2.5 (3H, s) 2.75 (2H, m), 3.3 (2H, m), 3.8 (3H, s), 5.7 (1H, s), 7.1 (3H, m), 7.4 (1H, s), 7.65 (1H dd), 7.9 (1H, dd), 8.5 (1H, m) ppm.

reactant | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone | 0.005 mol, 1.42 g | COC=1C(=NC=CC1)CCCCNC=1NC=CC(N1)=O | C14H18N4O2
reactant | 2-methyl-5-formylpyridine | 0.012 mol, 1.35 g | CC1=NC=C(C=C1)C=O | C7H7NO
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone | 0.63 g | COC=1C(=NC=CC1)CCCCNC=1NC=C(C(N1)=O)C(O)C=1C=NC(=CC1)C | C21H25N5O3
